US07541374B2
0.61 g of 1-chloromethyl-3-nitro-1H-pyrole and 0.65 g of (3,3,3-trifluoropropyl) malononitrile were dissolved in 10 ml of N,N-dimethylformamide. 0.28 g of potassium carbonate was added to the solution under ice cooling, followed by stirring at room temperature for overnight. Water was added to the reaction mixture, and then extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.80 g of [(3-nitro-1H-pyrole-1-yl) methyl](3,3,3-trifluoropropyl) malononitrile (referred as the compound of the present invention (45), hereinafter) shown by below formula.

reactant | 1-chloromethyl-3-nitro-1H-pyrole | 0.61 g | ClCN1C=C(C=C1)[N+](=O)[O-] | C5H5ClN2O2
reactant | (3,3,3-trifluoropropyl) malononitrile | 0.65 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [(3-nitro-1H-pyrole-1-yl) methyl](3,3,3-trifluoropropyl) malononitrile | 0.80 g | [N+](=O)([O-])C1=CN(C=C1)CC(C#N)(C#N)CCC(F)(F)F | C11H9F3N4O2
